US07737166B2
Under nitrogen atmosphere, bis(triphenylphosphine)palladium chloride (435 mg, 620 μmol) was added to a toluene (125 ml) solution of 6-bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide (I-127) (4.04 g, 12.4 mmol), tributyl(1-ethoxyvinyl)tin (5.37 g, 14.9 mmol) and 2,6-di-tert-butyl-p-cresol (about 20 grains), and heated under reflux for 20 hours. After cooling, the solvent was evaporated away under reduced pressure, then n-hexane was added to the resulting residue and stirred at room temperature for 1 hour. Next, the precipitated solid was collected by filtration and subjected to silica gel column chromatography, and the eluate with n-hexane/ethyl acetate (1:1, v/v) gave 4-cyano-6-[1-(ethoxy)ethenyl]-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide (3.20 g, 81%) as a yellow solid. The fraction containing impurities was recovered and purified in the same manner, and 3.57 g (91%) of 4-cyano-6-[1-(ethoxy)ethenyl]-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide was obtained in total. The analytical data are shown below.

reactant | 6-bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide | 12.4 mmol, 4.04 g | BrC1=C(C2=C(N=C(O2)C(=O)N(C)C)C(=C1C)C#N)F | C12H9BrFN3O2
reactant | tributyl(1-ethoxyvinyl)tin | 14.9 mmol, 5.37 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
catalyst | bis(triphenylphosphine)palladium chloride | 620 μmol, 435 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-6-[1-(ethoxy)ethenyl]-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide | 3.20 g, 81% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C(=C)OCC)C | C16H16FN3O3
